US06589984B1
A mixed solution of 4-acetyloxy-3,5-dimethyl-6-(6-(methoxycarbonyl)benzofuran-2-yl)-2H-pyran-2-one (85 mg) and K2CO3 (45 mg) in MeOH (5 ml) and H2O (1 ml) was stirred at room temperature for one hour, and then the reaction solution was rendered acidic with a 1 N hydrochloric acid aqueous solution and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (AcOEt/MeOH=5/1) to obtain 6-(6-carboxybenzofuran-2-yl)-3,5-dimethyl-4-hydroxy-2H-pyran-2-one.

reactant | 4-acetyloxy-3,5-dimethyl-6-(6-(methoxycarbonyl)benzofuran-2-yl)-2H-pyran-2-one | 85 mg | C(C)(=O)OC1=C(C(OC(=C1C)C=1OC2=C(C1)C=CC(=C2)C(=O)OC)=O)C | C19H16O7
reactant | K2CO3 | 45 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | MeOH | 5 ml | CO | CH4O
solvent | H2O | 1 ml | O | H2O
product | 6-(6-carboxybenzofuran-2-yl)-3,5-dimethyl-4-hydroxy-2H-pyran-2-one | C(=O)(O)C1=CC2=C(C=C(O2)C2=C(C(=C(C(O2)=O)C)O)C)C=C1 | C16H12O6
